US08895745B2
Step 2: 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4-Bromo-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (1 g, 2.8 mmol) in dioxane (25 ml) [reaction degassed by bubbling nitrogen through] was added bis(pinacolato)diboron (0.93 g, 36.5 mmol), KOAc (0.83 g, 84.5 mmol), PdCl2ddpf (0.061 g, 0.84 mmol) and dppf (0.092 g, 0.16 mmol) and the mixture then stirred and heated at 80° C. for 16 hours. After cooling to RT the mixture was partitioned between EtOAc/H2O, the organic layer was washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure to give (1.06 g) of product. MS: [M+H]+ no mass ion used crude

reactant | 4-(4-Bromo-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)Br | C16H22BrNO3
reactant | bis(pinacolato)diboron | 36.5 mmol, 0.93 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 84.5 mmol, 0.83 g | CC(=O)[O-].[K+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | dppf | 0.16 mmol, 0.092 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 1.06 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H34BNO5
